US06809097B1
Using an analogous procedure to that described for Example 31, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride (300 mg, 0.73 mmol), (prepared as described for the starting material in Example 7), was reacted with 4-chloro-2-fluoroaniline (160 μl, 1.4 mmol) to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride (88 mg, 23%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride | 0.73 mmol, 300 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1
reactant | 4-chloro-2-fluoroaniline | 1.4 mmol, 160 μl | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride | 88 mg, 23% | Cl.ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C=C1)F | InChI=1S/C23H25ClFN3O3.ClH/c1-29-22-14-17-19(27-20-4-3-16(24)13-18(20)25)5-6-26-21(17)15-23(22)31-10-2-7-28-8-11-30-12-9-28;/h3-6,13-15H,2,7-12H2,1H3,(H,26,27);1H
